US07875728B2
Preparation of N-{5-amino-4-[(3-fluorophenyl)hydrazono]-4H-pyrazol-3-ylmethyl}methanesulfonamide
Methanesulfonyl chloride was reacted with 5-(aminomethyl)-4-(3-fluorophenylhydrazono)-3-amino-4H-pyrazole (60 mg, 0.25 mmole) in DMF at ambient temperature to yield 43 mg (52%) of the title compound. 1H NMR (ppm, 300 MHz, DMSO-d6) δ 11.49 (br s, 1H), 7.20-7.50 (m, 3H), 6.70-7.10 (m, 2H), 6.45 (br s, NH2), 4.40 (d, 2H), 2.79 (s, 3H, CH3).

reactant | Methanesulfonyl chloride | CS(=O)(=O)Cl | CH3ClO2S
reactant | 5-(aminomethyl)-4-(3-fluorophenylhydrazono)-3-amino-4H-pyrazole | 0.25 mmole, 60 mg | NCC=1C(C(=NN1)N)=NNC1=CC(=CC=C1)F | C10H11FN6
solvent | DMF | CN(C)C=O | C3H7NO
product | N-{5-amino-4-[(3-fluorophenyl)hydrazono]-4H-pyrazol-3-ylmethyl}methanesulfonamide | 43 mg, 52% | NC=1C(C(=NN1)CNS(=O)(=O)C)=NNC1=CC(=CC=C1)F | C11H13FN6O2S
